US08466186B2
(a) N-(4-Trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide
A solution of pivaloyl chloride (2.1 mL, 17 mmol) in MeCN (10 mL) was added dropwise over 10 min to a solution of 4-trifluoromethoxy-benzylamine (2.6 mL, 17 mmol) and TEA (4.0 mL, 29 mmol) in MeCN (20 mL) at 0° C. The mixture was stirred for 30 min, filtered and concentrated. The residue was treated with water and filtration gave the sub-title compound.

reactant | pivaloyl chloride | 17 mmol, 2.1 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 4-trifluoromethoxy-benzylamine | 17 mmol, 2.6 mL | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
solvent | MeCN | 10 mL | CC#N | C2H3N
solvent | MeCN | 20 mL | CC#N | C2H3N
product | N-(4-Trifluoromethoxy-benzyl)-2,2-dimethyl-propionamide | FC(OC1=CC=C(CNC(C(C)(C)C)=O)C=C1)(F)F | C13H16F3NO2
